US06617346B1
To a solution of 4-chloro-2-fluoro-benzonitrile (1 g, 6.428 mmol) in ethanol (10 mL) were added sodium ethoxide solution (4.8 mL, 12.86 mmol, 21% wt in ethanol). The reaction mixture was heated at gently reflux for 12 h. The solvent was removed and the residue was partitioned between water (10 mL) and diethyl ether (20 mL). The layers were separated and the product was extracted with diethyl ether (20 mL). The organic layers were washed with brine (5 mL) and dried over anhydrous sodium sulfate. The solid was filtered off, and the filtrate was concentrated in vacuo. Purification of the residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 5% ethyl acetate in hexanes yielded 4-chloro-2-ethoxy-benzonitrile (670 mg, 57%).

reactant | 4-chloro-2-fluoro-benzonitrile | 6.428 mmol, 1 g | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | sodium ethoxide | 12.86 mmol, 4.8 mL | [O-]CC.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-chloro-2-ethoxy-benzonitrile | 670 mg, 57% | ClC1=CC(=C(C#N)C=C1)OCC | C9H8ClNO
